US04067903
288 parts of α-naphthol, 10 parts of triphenyl phosphite and 160 parts of n-butylamine are heated for 20 hours at 220° C in a pressure autoclave, whilst stirring. The further working up is carried out as described in Example 3. 346 parts of n-butyl-α-naphthylamine, boiling at 160° - 162° C/18 mm Hg, are obtained, corresponding to a yield of 87% of theory.

reactant | α-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | n-butylamine | C(CCC)N | C4H11N
product | n-butyl-α-naphthylamine | yield of 87% | C(CCC)NC1=CC=CC2=CC=CC=C12 | C14H17N
